US06521643B1
A suspension of 3-(3-tert-butyldimethylsilyloxymethylpyridin-2-yl)nitrobenzene (0.4 g) in ethanol (10 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 150 mg) under a hydrogen atmosphere for 2 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(3-tert-butyldimethylsilyloxymethylpyridin-2-yl)aniline (365 mg).

reactant | 3-(3-tert-butyldimethylsilyloxymethylpyridin-2-yl)nitrobenzene | 0.4 g | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1)C=1C=C(C=CC1)[N+](=O)[O-] | C18H24N2O3Si
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | 3-(3-tert-butyldimethylsilyloxymethylpyridin-2-yl)aniline | 365 mg | [Si](C)(C)(C(C)(C)C)OCC=1C(=NC=CC1)C=1C=C(N)C=CC1 | C18H26N2OSi
